US08202858B2
3-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-(4-propyl-piperazin-1-yl)-propan-1-one
A solution of propionaldehyde (0.29 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) was added to a solution of 3-[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-piperazin-1-yl-propan-1-one (2.36 mg, 0.005 mmol) in 1,2-dichloroethane (0.05 ml) and DIEA (0.0026 ml). The mixture was stirred at room temperature for 1 h then a solution of sodium triacetoxyborohydride (1.59 mg, 0.0075 mmol) in DMF (0.05 ml) was added. The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=515.5

reactant | propionaldehyde | 0.005 mmol, 0.29 mg | C(CC)=O | C3H6O
reactant | 3-[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-piperazin-1-yl-propan-1-one | 0.005 mmol, 2.36 mg | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(C=C3)CCC(=O)N3CCNCC3)C | C27H32N6O2
reactant | sodium triacetoxyborohydride | 0.0075 mmol, 1.59 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 0.05 ml | ClCCCl | C2H4Cl2
solvent | DIEA | 0.0026 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
product | 3-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-2-methyl-phenyl]-1-(4-propyl-piperazin-1-yl)-propan-1-one | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3=CC(=C(C=C3)CCC(=O)N3CCN(CC3)CCC)C | C30H38N6O2
